.subckt fsdp_x1 Q QN CK D SI SE VDD VSS
XFSDP_sei_P0 FSDP_se_b SE VDD VDD pmos w=2u l=100n
XFSDP_sei_N0 FSDP_se_b SE VSS VSS nmos w=1u l=100n
XFSDP_smx_MP0 FSDP_din SE D VDD pmos w=2u l=100n
XFSDP_smx_MN0 FSDP_din FSDP_se_b D VSS nmos w=1u l=100n
XFSDP_smx_MP1 FSDP_din FSDP_se_b SI VDD pmos w=2u l=100n
XFSDP_smx_MN1 FSDP_din SE SI VSS nmos w=1u l=100n
XFSDP_ck_P0 FSDP_ck_b CK VDD VDD pmos w=2u l=100n
XFSDP_ck_N0 FSDP_ck_b CK VSS VSS nmos w=1u l=100n
XFSDP_m_in_P FSDP_m_n1 CK FSDP_din VDD pmos w=2u l=100n
XFSDP_m_in_N FSDP_m_n1 FSDP_ck_b FSDP_din VSS nmos w=1u l=100n
XFSDP_m_i1_P0 FSDP_m_n2 FSDP_m_n1 VDD VDD pmos w=2u l=100n
XFSDP_m_i1_N0 FSDP_m_n2 FSDP_m_n1 VSS VSS nmos w=1u l=100n
XFSDP_m_i2_P0 FSDP_m_n1 FSDP_m_n2 VDD VDD pmos w=2u l=100n
XFSDP_m_i2_N0 FSDP_m_n1 FSDP_m_n2 VSS VSS nmos w=1u l=100n
XFSDP_m_fb_P FSDP_m_n1 FSDP_ck_b FSDP_m_n2 VDD pmos w=2u l=100n
XFSDP_m_fb_N FSDP_m_n1 CK FSDP_m_n2 VSS nmos w=1u l=100n
XFSDP_m_o_P0 FSDP_qm FSDP_m_n2 VDD VDD pmos w=2u l=100n
XFSDP_m_o_N0 FSDP_qm FSDP_m_n2 VSS VSS nmos w=1u l=100n
XFSDP_s_in_P FSDP_s_n1 FSDP_ck_b FSDP_qm VDD pmos w=2u l=100n
XFSDP_s_in_N FSDP_s_n1 CK FSDP_qm VSS nmos w=1u l=100n
XFSDP_s_i1_P0 FSDP_s_n2 FSDP_s_n1 VDD VDD pmos w=2u l=100n
XFSDP_s_i1_N0 FSDP_s_n2 FSDP_s_n1 VSS VSS nmos w=1u l=100n
XFSDP_s_i2_P0 FSDP_s_n1 FSDP_s_n2 VDD VDD pmos w=2u l=100n
XFSDP_s_i2_N0 FSDP_s_n1 FSDP_s_n2 VSS VSS nmos w=1u l=100n
XFSDP_s_fb_P FSDP_s_n1 CK FSDP_s_n2 VDD pmos w=2u l=100n
XFSDP_s_fb_N FSDP_s_n1 FSDP_ck_b FSDP_s_n2 VSS nmos w=1u l=100n
XFSDP_s_o_P0 Q FSDP_s_n2 VDD VDD pmos w=2u l=100n
XFSDP_s_o_N0 Q FSDP_s_n2 VSS VSS nmos w=1u l=100n
XFSDP_qn_P0 QN Q VDD VDD pmos w=2u l=100n
XFSDP_qn_N0 QN Q VSS VSS nmos w=1u l=100n
.ends fsdp_x1
